US07320995B2
A. N-[methyl]-N-methoxyl 3,4-dinitrobenzamide
Cool a mixture of 3,4-dinitrobenzoic acid (195 g, 0.92 moles), 1.3 L of dry dichloromethane, and 2 mL dimethylformamide to −12° C. under a nitrogen atmosphere. Add oxalyl chloride (134 ml, 1.54 moles) dropwise via addition funnel over 35 minutes and stir the reaction mixture at room temperature under a nitrogen atmosphere overnight. Remove excess oxalyl chloride from the reaction mixture by repetitive cycles of concentrating a dichloromethane solution of the reaction mixture under reduced pressure. Cool a mixture of the residue in 1 L dichloromethane to −5° C. under a nitrogen atmosphere and add N,O-dimethylhydroxylamine hydrochloride (98.7 g, 1.01 moles) followed by the careful addition of 209 mL (2.62 moles) of dry pyridine in portions. Stir the mixture at room temperature for 4 hours and then concentrate under reduced pressure. Suspend the residue in 500 mL dichloromethane and concentrate under reduced pressure twice. Suspend the residue in 500 mL dichloromethane and filter. Store the filtrate at −13° C. for 3 days, filter the solid and rinse with cold dichloromethane. Dilute the filtrate with water (40 mL) and stored at −13° C. again to provide a second crop. Dry the combined crops under reduced pressure to provide 182 g (77%) of the desired compound.

reactant | 3,4-dinitrobenzoic acid | 0.92 moles, 195 g | [N+](=O)([O-])C=1C=C(C(=O)O)C=CC1[N+](=O)[O-] | C7H4N2O6
reactant | oxalyl chloride | 1.54 moles, 134 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N,O-dimethylhydroxylamine hydrochloride | 1.01 moles, 98.7 g | Cl.CNOC
reactant | pyridine | 2.62 moles, 209 mL | N1=CC=CC=C1 | C5H5N
solvent | dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
solvent | dichloromethane | 1.3 L | ClCCl | CH2Cl2
product | N-[methyl]-N-methoxyl 3,4-dinitrobenzamide | 182 g, 77% | CN(C(C1=CC(=C(C=C1)[N+](=O)[O-])[N+](=O)[O-])=O)OC | C9H9N3O6
